US04859679
8-(4-n-Propyloxy-2-pyrimidylsulfinyl)quinoline
To a mixture of 710 mg. (2.38 mmol) of 8-(4-propyloxy-2-pyrimidylthio)quinoline and 999 mg. of sodium bicarbonate (11.9 mmol) in 40 ml. of methylene chloride cooled to 0° C. was added dropwise over a period of 15 minutes 574 mg. (2.64 mmol) of 85% m-chloroperbenzoic acid in 15 ml. of the same solvent. The reaction mixture was stirred for 30 minutes and was then allowed to warm to room temperature and stirred overnight. The reaction was diluted with methylene chloride and the organic layer washed successively with a saturated sodium bicarbonate solution, water and a saturated brine solution. The organic phase was separated, dried over magnesium sulfate and concentrated to give 745 mg. of crude product which was purified by chromatographing on silica gel, 367 mg.

reactant | 8-(4-propyloxy-2-pyrimidylthio)quinoline | 2.38 mmol | C(CC)OC1=NC(=NC=C1)SC=1C=CC=C2C=CC=NC12 | C16H15N3OS
reactant | sodium bicarbonate | 11.9 mmol | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | 2.64 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-(4-n-Propyloxy-2-pyrimidylsulfinyl)quinoline | C(CC)OC1=NC(=NC=C1)S(=O)C=1C=CC=C2C=CC=NC12 | C16H15N3O2S
